US08461134B2
Propyl 5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzylcarbamate
To a solution of 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (500 mg, 0.89 mmol) and TEA (360 mg, 3.6 mmol) in THF (200 mL) at −20° C. was slowly added propyl chloroformate (108 mg, 0.89 mmol) in THF (10 mL). Then the mixture was stirred at room temperature for 2 hrs. The mixture was concentrated in vacuo and the residue was purified by prep-HPLC (column: Luna 300×50.0 mm, 10 u; liquid phase: [A-H2O+0.025% TFA; B-MeCN] B %: 15%-40%, 25 min) to give the title compound (246 mg, 46%) as TFA salt. 1H NMR DMSO 400 MHz δ 9.99 (s, 1H), 7.52 (d, J=8.4 Hz, 1H), 7.42 (s, 2H), 7.20 (d, J=8.0 Hz, 1H), 7.11 (dd, J1=8.0 Hz, J2=2.0 Hz, 1H), 6.48 (s, 1H), 6.35 (q, 1H), 4.84 (s, 2H), 4.50 (s, 2H), 3.93 (q, 2H), 1.57 (q, 2H), 0.63 (t, 3H).

reactant | 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 0.89 mmol, 500 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CN | C14H16BN3O4S
reactant | propyl chloroformate | 0.89 mmol, 108 mg | ClC(=O)OCCC | C4H7ClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Propyl 5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzylcarbamate | 246 mg, 46% | NC=1C=CC(=C(CNC(OCCC)=O)C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C18H22BN3O6S
